US09233098B2
5. Preparation of ethyl 2-[1-(4-aminobenzyl)-5-fluoro-1H-indazol-3-yl]acetate
Ethyl 2-[5-fluoro-1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate (137 mg, 0.383 mmol) was dissolved in methanol (20 mL). 10% Pd/C (10 mg) was added, and reacted under hydrogen atmosphere for half an hour. TLC (petroleum ether:ethyl acetate=2:1) indicated that starting material disappeared. It was filtered to remove solid, rotate evaporated to dryness to remove the solvent, and the resulting solid was used for the next step directly.

reactant | Ethyl 2-[5-fluoro-1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate | 0.383 mmol, 137 mg | FC=1C=C2C(=NN(C2=CC1)CC1=CC=C(C=C1)[N+](=O)[O-])CC(=O)OCC | C18H16FN3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | ethyl 2-[1-(4-aminobenzyl)-5-fluoro-1H-indazol-3-yl]acetate | NC1=CC=C(CN2N=C(C3=CC(=CC=C23)F)CC(=O)OCC)C=C1 | C18H18FN3O2
